US04940710
A mixture of 41.4 g of 1-(phenylsulfonyl-1H-pyrrole, prepared as described above, and 17.16 g of acetyl chloride in 200 ml of dichloroethane was added to a suspension of 32 g of aluminum chloride in 200 ml of dichloroethane. The reaction was stirred for one hour, poured onto a mixture of ice and concentrated hydrochloric acid and extracted several times with ether. The extracts were combined and evaporated. The residue was triturated with ether and the solid collected, giving 39 g of 3-acetyl-1-(phenylsulfonyl)-1H-pyrrole.

reactant | phenylsulfonyl-1H-pyrrole | C1(=CC=CC=C1)S(=O)(=O)N1C=CC=C1 | C10H9NO2S
reactant | acetyl chloride | 17.16 g | C(C)(=O)Cl | C2H3ClO
reactant | aluminum chloride | 32 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | dichloroethane | 200 ml | ClC(C)Cl | C2H4Cl2
solvent | dichloroethane | 200 ml | ClC(C)Cl | C2H4Cl2
product | 3-acetyl-1-(phenylsulfonyl)-1H-pyrrole | 39 g | C(C)(=O)C1=CN(C=C1)S(=O)(=O)C1=CC=CC=C1 | C12H11NO3S
